US05142081
1.1-dimethyl-1-trimethylsiloxyethane:
1 mole of tert. butanol, 1.5 moles of trimethylchlorosilane and 0.001 moles of tetra-n-butyl ammonium bromide were reacted at the reflux temperature (54°-67° C.) as in Example 1 and then worked up by distillation.

reactant | tert. butanol | 1 mole | C(C)(C)(C)O | C4H10O
reactant | trimethylchlorosilane | 1.5 moles | C[Si](Cl)(C)C | C3H9ClSi
catalyst | tetra-n-butyl ammonium bromide | 0.001 moles | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1.1-dimethyl-1-trimethylsiloxyethane | CC(C)(O[Si](C)(C)C)C | C7H18OSi
